US07745641B2
In a similar manner to Step 1 of Example 152, 4-trifluoromethanesulfonyloxy-7-{1-(tert-butoxycarbonyl)-5-[4-(2-tert-butyldimethylsilyloxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone (46.0 mg, 0.0611 mmol) was dissolved in dimethoxyethane (2.8 mL), and the solution was treated with 2,4,6-trivinylcyclotriboroxane-pyridine complex (32 mg, 0.13 mmol), [bis(diphenylphosphino)ferrocene]dichloropalladium (4.4 mg, 0.0054 mmol), potassium carbonate (46 mg, 0.34 mmol) and water (0.024 mL), followed by purification by preparative thin-layer chromatography (chloroform/methanol=12/1) to obtain 4-vinyl-7-{1-(tert-butoxycarbonyl)-5-[4-(2-tert-butyldimethylsilyloxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone (31.6 mg, yield 82%).

reactant | 4-trifluoromethanesulfonyloxy-7-{1-(tert-butoxycarbonyl)-5-[4-(2-tert-butyldimethylsilyloxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone | 0.0611 mmol, 46.0 mg | FC(S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCN(CC1)CCO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)=O)(F)F | C35H47F3N4O7SSi
reactant | 2,4,6-trivinylcyclotriboroxane-pyridine complex | 0.13 mmol, 32 mg | B1(OB(OB(O1)C=C)C=C)C=C.C1=CC=NC=C1
reactant | potassium carbonate | 0.34 mmol, 46 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.024 mL | O | H2O
solvent | dimethoxyethane | 2.8 mL | C(OC)COC | C4H10O2
product | 4-vinyl-7-{1-(tert-butoxycarbonyl)-5-[4-(2-tert-butyldimethylsilyloxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone | 31.6 mg, yield 82% | C(=C)C1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCN(CC1)CCO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)=O | C36H50N4O4Si
